US06800651B2
3-(1-Methoxyphenylsulfinyl)aniline (145 mg, 0.59 mmol) and pyridine-3-carboxaldehyde (63 mg, 0.59 mmol) were reacted in anhydrous methanol (3.0 ml), followed by treatment with sodium borohydride (44 mg, 1.17 mmol) as previously described (Intermediate 3). Silica gel chromatography (2 mm Chromatotron® plate, eluting with 20/1 ethyl acetate/hexanes) afforded N-(3-(2-methoxyphenylsulfinyl)phenyl)pyrid-3-ylmethylamine (162 mg, 82%) as an oil. 1H NMR(400 MHz): 3.77(3H,s), 4.35(2H,br s), 6.61(1H,m), 6.83(1H,d,J=8.0), 6.96(1H,br t), 7.01-7.04(1H,m), 7.11(1H,dt,J=7.8, 1.0), 7.18(1H,t,J=7.8), 7.21-7.28(1H,br s), 7.35-7.41(1H,m), 7.63(1H,br d), 7.82(2H,dd,J=7.8, 1.5), 8.40-8.80(2H,br s); MS(ESI)m/z 339.1([M+H]+,100)

reactant | 3-(1-Methoxyphenylsulfinyl)aniline | 0.59 mmol, 145 mg | COC1(CC=CC=C1)S(=O)C=1C=C(N)C=CC1 | C13H15NO2S
reactant | pyridine-3-carboxaldehyde | 0.59 mmol, 63 mg | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium borohydride | 1.17 mmol, 44 mg | [BH4-].[Na+]
reactant | methanol | 3.0 ml | CO | CH4O
product | N-(3-(2-methoxyphenylsulfinyl)phenyl)pyrid-3-ylmethylamine | 162 mg, 82% | COC1=C(C=CC=C1)S(=O)C=1C=C(C=CC1)NCC=1C=NC=CC1 | C19H18N2O2S
